US06982348B2
To a solution of 4-methyl-1-naphthalenecarboxylic acid (4.14 g, 22.2 mmol) in methanol (50 ml) was added thionyl chloride (3 ml), and the mixture was stirred at 60° C. overnight. The reaction solution was concentrated, water (100 ml) was added and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced ressure to give methyl 4-methyl-1-naphthalenecarboxylate (4.32 g, 97%) as a colorless oil.

reactant | 4-methyl-1-naphthalenecarboxylic acid | 22.2 mmol, 4.14 g | CC1=CC=C(C2=CC=CC=C12)C(=O)O | C12H10O2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 4-methyl-1-naphthalenecarboxylate | 4.32 g, 97% | CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H12O2
